US04820822
A mixture of 1 part of 3-pyridinemethanamine, 3.9 parts of 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine and 45 parts of tetrahydrofuran was stirred for 4 hours at room temperature. The reaction mixture was evaporated in vacuo. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (94:6 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 2,2'-oxybispropane, yielding 3.4 parts (65.7%) of N-[2-[4-[[1-(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]-ethyl]-N'-(3-pyridinylmethyl)thiourea; mp. 147.2° C. (compound 102).

reactant | 3-pyridinemethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N'-(3-pyridinylmethyl)thiourea | N1=CC(=CC=C1)CNC(N)=S | C7H9N3S
